US07176242B2
Step 1: 1-Tert-butyl 6-methyl 4-butyl-3-oxo-3,4-dihydroquinoxaline-1,6(2H)-dicarboxylate
To an ice-cold, stirred solution of methyl 4-butyl-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate (1.1 g), and triethylamine (0.9 mL) in methylene chloride (10 mL) was added DMAP (51.3 mg) and di-tert-butyl dicarbonate (1.4 g), and the resulting mixture was stirred for 4 d. The mixture was diluted with methylene chloride, washed with water, and brine. The organic layer was then dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:1 ethyl acetate/hexanes) provided 440 mg of the title compound: ESI MS m/z 363 [M+H]+.

reactant | methyl 4-butyl-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 1.1 g | C(CCC)N1C(CNC2=CC=C(C=C12)C(=O)OC)=O | C14H18N2O3
reactant | triethylamine | 0.9 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 51.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-Tert-butyl 6-methyl 4-butyl-3-oxo-3,4-dihydroquinoxaline-1,6(2H)-dicarboxylate | 440 mg | C(CCC)N1C(CN(C2=CC=C(C=C12)C(=O)OC)C(=O)OC(C)(C)C)=O | C19H26N2O5
